US05157026
Step 1: Preparation of 2-propylimidazo[4,5-b]pyridine
The title compound was prepared according to the procedure described for the preparation of 2-butylimidazo[4,5-b]pyridine starting with 3,4-diaminopyridine and butyric acid. Yield: 6.60 g (89%) amorphous solid.

reactant | 2-butylimidazo[4,5-b]pyridine | C(CCC)C=1NC=2C(=NC=CC2)N1 | C10H13N3
reactant | 3,4-diaminopyridine | NC=1C=NC=CC1N | C5H7N3
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | 2-propylimidazo[4,5-b]pyridine | C(CC)C=1NC=2C(=NC=CC2)N1 | C9H11N3
